US03950393
3.4 gm of 2-amino-N-benzyl-N-tert.butyl-5-carbethoxy-benzylamine were dissolved in 50 ml of ethanol. Ethanolic hydrochloric acid was added to the solution until a pH of about 2 was reached. The solution was then hydrogenated in the presence of palladized (10%) charcoal. After absorption of 1 mol of hydrogen, the hydrogenation was terminated, the catalyst was filtered off, the filtrate was evaporated to dryness in vacuo, and the residue was distributed between a mixture of dilute ammonia and chloroform. The chloroform phase was dried and evaporated to dryness, and the residue was recrystallized from ethanol, yielding 2-amino-N-tert.butyl-5-carbethoxy-benzylamine, m.p. 77°-79°C.

reactant | 2-amino-N-benzyl-N-tert.butyl-5-carbethoxy-benzylamine | 3.4 gm | NC1=C(CN(C(C)(C)C)CC2=CC=CC=C2)C=C(C=C1)C(=O)OCC | C21H28N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
reactant | hydrogen | 1 mol | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-N-tert.butyl-5-carbethoxy-benzylamine | NC1=C(CNC(C)(C)C)C=C(C=C1)C(=O)OCC | C14H22N2O2
